US07612092B2
4-(3-Chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-((2R)-3-diethylamino-2-hydroxypropoxy)-6-quinoline carboxamide
After adding (2R)oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate (308 mg, 1.35 mmol), potassium carbonate (149 mg, 1.08 mmol) and dimethylformamide (9 ml) to 4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide (372.0 mg, 0.90 mmol),

reactant | (2R)oxiran-2-ylmethyl 4-methyl-1-benzenesulfonate | 1.35 mmol, 308 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC1 | C10H12O4S
reactant | potassium carbonate | 1.08 mmol, 149 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-hydroxy-6-quinolinecarboxamide | 0.90 mmol, 372.0 mg | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)N)O)C=CC1NC(=O)NC1CC1 | C20H17ClN4O4
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 4-(3-Chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-((2R)-3-diethylamino-2-hydroxypropoxy)-6-quinoline carboxamide | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)N)OC[C@@H](CN(CC)CC)O)C=CC1NC(=O)NC1CC1 | C27H32ClN5O5
